US06423725B1
1-[1-(1-Phenylcyclohexyl)-4-piperidinyl]-1,3-dihydro-2H-1,3-benzimidazol-2-one
To a solution of phenylmagnesium bromide (3M solution in diethyl ether, 0.75 ml, 2.25 mmol) in THF (1 ml) was added a suspension of 1-[4-(2-oxo-2,3-dihydro-1H-1,3-benzimidazol-1-yl)piperidino]-1-cyclohexanecarbonitrile (230 mg, 0.71 mmol) in THF (2 ml) at 0° C. Then the reaction mixture was stirred at room temperature for 18 h. To the reaction mixture was added sat.NH4Cl aq. solution (1 ml) followed by addition of water (5 ml). The white precipitate appeared was collected by filtration, washed faith water and CH2Cl2, and dried to give 75 mg (28.1%) of title compound. The filtrate of CH2Cl2 wash was concentrated to give 171 mg of title compound and the starting material mixture, which was purified by column chromatography (silica gel:30 g, CH2Cl2/MeOH:50/1 to 15/1) to give 60 mg(22.5%) of title compound as white powder.

reactant | phenylmagnesium bromide | 2.25 mmol, 3M, 0.75 ml | C1(=CC=CC=C1)[Mg]Br
reactant | 1-[4-(2-oxo-2,3-dihydro-1H-1,3-benzimidazol-1-yl)piperidino]-1-cyclohexanecarbonitrile | 0.71 mmol, 230 mg | O=C1NC2=C(N1C1CCN(CC1)C1(CCCCC1)C#N)C=CC=C2 | C19H24N4O
reactant | NH4Cl | 1 ml | [NH4+].[Cl-]
reactant | water | 5 ml | O | H2O
solvent | THF | 1 ml | C1CCOC1 | C4H8O
solvent | THF | 2 ml | C1CCOC1 | C4H8O
product | 1-[1-(1-Phenylcyclohexyl)-4-piperidinyl]-1,3-dihydro-2H-1,3-benzimidazol-2-one | 75 mg, 28.1% | C1(=CC=CC=C1)C1(CCCCC1)N1CCC(CC1)N1C(NC2=C1C=CC=C2)=O | C24H29N3O
